US06956050B2
STEP 2. 2-[4-(2-amino-5-methyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethanol
A mixture of 2-{[4-(2-hydroxyethyl)phenyl]amino}-1-phenyl-1-propanone (1.3 g, 5.0 mmol) and cyanamide (420 mg, 10 mmol) in ethanol (60 mL) was refluxed for 16 h. After removal of solvent, the residue was diluted with dichloromethane. The organic layer was washed with water, dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with ethyl acetate/ethanol (10:1) to give 490 mg (33%) of the title compound as yellow solids: 1H-NMR (CDCl3) δ 2.16 (3H, s), 2.96 (2H, t, J=5.6 Hz), 3.96 (2H, t, J=5.6 Hz), 4.24 (1H, br), 7.29-7.21 (2H, m), 7.46-7.38 (4H, m), 7.66-7.63 (2H, m).

reactant | 2-{[4-(2-hydroxyethyl)phenyl]amino}-1-phenyl-1-propanone | 5.0 mmol, 1.3 g | OCCC1=CC=C(C=C1)NC(C(=O)C1=CC=CC=C1)C | C17H19NO2
reactant | cyanamide | 10 mmol, 420 mg | N#CN | CH2N2
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 2-[4-(2-amino-5-methyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethanol | 490 mg, 33% | NC=1N(C(=C(N1)C1=CC=CC=C1)C)C1=CC=C(C=C1)CCO | C18H19N3O
